US20010014737A1
b) 3-[N-(4-Trifluoromethylbenzyl)aminomethyl]-4-bromoanisole
To a stirred solution of 4-bromo-3-bromomethylanisole (35 g, 125 mmol) in anhydrous DMSO (50 mL) and dry THF (50 mL) was added 4-trifluoromethylbenzylamine (30 g, 171 mmol) followed by triethylamine (18 mL, 129 mmol). After stirring for 18 h at RT the reaction was concentrated, diluted with aqueous 1 N NaOH (250 mL) and extracted with Et2O (2×250 mL). The combined organic layers were washed with brine, dried (Na2SO4), and concentrated to dryness. The residue which remained was purified by flash chromatography on silica gel (10 to 20% EtOAc/CHCl3) to give the title compound (34.17 g, 73%): TLC (20% EtOAc/CHCl3) Rf 0.63; 1H NMR (400 MHz, CDCl3) δ7.59 (d, J= 8.2 Hz, 2 H), 7.49 (d, J=8.2 Hz, 2 H), 7.43 (d, J=8.6 Hz, 1 H), 6.96 (d, J=3.1 Hz, 1 H), 6.70 (dd, 1 H), 3.86 (s, 2 H), 3.84 (s, 2 H), 3.79 (s, 3 H), 1.75 (br s, 1 H).

reactant | 4-bromo-3-bromomethylanisole | 125 mmol, 35 g | BrC1=C(C=C(C=C1)OC)CBr | C8H8Br2O
reactant | 4-trifluoromethylbenzylamine | 171 mmol, 30 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | triethylamine | 129 mmol, 18 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-[N-(4-Trifluoromethylbenzyl)aminomethyl]-4-bromoanisole | 34.17 g, 73% | FC(C1=CC=C(CNCC=2C=C(C=CC2Br)OC)C=C1)(F)F | C16H15BrF3NO
